US09102614B2
A Smith process vial was charged with 1-bromo-2-chloro-3-methylbenzene (528 mg, 2.57 mmol, 1 eq.), tributylmethoxytin (1.11 mL, 1.5 eq.), 4-methylpent-4-en-2-one (0.42 mL, 1.5 eq.), PdCl2 (23 mg, 5%) and tri(o-tolyl)phosphine (79 mg, 10%), toluene (1 mL) was added and mixture sparged with nitrogen for 10 minutes and then heated in oil bath at 100° C. for 5 hours. The reaction mixture was diluted with ethyl acetate and washed with brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to 1-(2-chloro-3-methylphenyl)propan-2-one (375 mg, 80% yield). 1H-NMR: 400 MHz, (CDCl3) δ: 7.19-7.02 (m, 3H), 3.82 (s, 2H), 2.38 (s, 3H), 2.18 (s, 3H).

reactant | 1-bromo-2-chloro-3-methylbenzene | 2.57 mmol, 528 mg, 1 eq. | BrC1=C(C(=CC=C1)C)Cl | C7H6BrCl
reactant | tributylmethoxytin | 1.11 mL, 1.5 eq. | C(CCC)[Sn](OC)(CCCC)CCCC
reactant | 4-methylpent-4-en-2-one | 0.42 mL, 1.5 eq. | CC(CC(C)=O)=C | C6H10O
reactant | tri(o-tolyl)phosphine | 79 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | PdCl2 | 23 mg | Cl[Pd]Cl
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-3-methylphenyl)propan-2-one | 375 mg, 80% yield | ClC1=C(C=CC=C1C)CC(C)=O | C10H11ClO
